US06429229B1
Spermidine Keto-glutarate
Extemporaneously synthesized by mixing 116.3 mg (0. 8 mmole) of spermidine and 117 mg (0.8 mmole) of α-keto-glutaric acid in 50 ml of water, which produces 0.16 M solution.

reactant | spermidine | 8 mmole, 116.3 mg | NCCCCNCCCN | C7H19N3
reactant | α-keto-glutaric acid | 0.8 mmole, 117 mg | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | water | 50 ml | O | H2O
product | Spermidine Keto-glutarate | 0.16 M | O=C(C(=O)O)CCC(=O)O.NCCCCNCCCN | InChI=1S/C7H19N3.C5H6O5/c8-4-1-2-6-10-7-3-5-9;6-3(5(9)10)1-2-4(7)8/h10H,1-9H2;1-2H2,(H,7,8)(H,9,10)
